US07994163B2
4-Isobutyl-1H-imidazole-2-thiol:
Dissolve 1-amino-4-methyl-2-pentanone hydrochloride (1.4 g, 9.2 mmol) and potassium thiocyanate (1.3 g, 12.9 mmol) in water (3 mL). Stir the solution at 100° C. in a sealed flask for 2 h. Cool the mixture and concentrate in vacuo. Purify the residue by chromatography on silica gel (10 g) eluting with EtOAc to obtain a yellow solid (980 mg, estimated 1:1 product to starting material by NMR). Dissolve the yellow solid (980 mg) in water (2 mL) and concentrated hydrochloric acid (0.5 mL). Add potassium thiocyanate (0.7 g, 7.2 mmol) and heat the mixture at 100° C. for 16 h. Cool the mixture and concentrate in vacuo. Purify the residue by chromatography on silica gel (25 g) eluting with hexane/EtOAc (1:1) to obtain the title compound as a yellow solid (550 mg, 38%). MS (ES+) m/z: 157.2 (M+H)+.

reactant | 1-amino-4-methyl-2-pentanone hydrochloride | 9.2 mmol, 1.4 g | Cl.NCC(CC(C)C)=O
reactant | potassium thiocyanate | 12.9 mmol, 1.3 g | [S-]C#N.[K+]
reactant | potassium thiocyanate | 7.2 mmol, 0.7 g | [S-]C#N.[K+]
solvent | water | 3 mL | O | H2O
solvent | water | 2 mL | O | H2O
solvent | hydrochloric acid | 0.5 mL | Cl | ClH
product | 4-Isobutyl-1H-imidazole-2-thiol | 550 mg, 38% | C(C(C)C)C=1N=C(NC1)S | C7H12N2S
